US04851519
A solution of 219 mg of 4-bromobenzoyl chloride in 5 ml of diethyl ether was added to a solution of 241 mg of 5'-amino-5'-deoxythymidine in 4 ml of 0.25M sodium hydroxide solution and the mixture was shaken vigorously for 10 minutes. The mixture was filtered and the solid was washed with 10 ml of water and 4 ml of diethyl ether, and recrystallized from ethanol to give 195 mg of 5'-(4-bromobenzamido)-5'-deoxythymidine of melting point 250.5°-252° C.

reactant | 4-bromobenzoyl chloride | 219 mg | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | 5'-amino-5'-deoxythymidine | 241 mg | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C10H15N3O4
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | sodium hydroxide | 0.25M, 4 ml | [OH-].[Na+]
product | 5'-(4-bromobenzamido)-5'-deoxythymidine | 195 mg | BrC1=CC=C(C(=O)NC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)NC(=O)C(C)=C2)O)C=C1 | C17H18BrN3O5
